US04290947
n-Butyllithium (19.4 ml of 2.5 M hexane solution, 48.5 mmol) is added slowly by syringe to a solution of tri(methylthio)methane (7.47 g, 48.5 mmol) in 150 ml of freshly distilled THF at -78° C. The resulting solution is stirred at -78° C. for 30 min. prior to the addition of a solution of (4S)-1-(tert-butyldimethylsilyl)-4-iodomethylazetidin-2-one (15.0 g, 46.15 mmol) in 50 ml of THF. This solution is stirred at -78° C. for 30 min., then quenched by addition of saturated aqueous ammonium chloride solution. The reaction mixture is allowed to warm to room temperature, then poured into ether (250 ml), washed with water (2×100 ml) brine (100 ml) and dried over magnesium sulfate. Removal of solvents in vacuo gives an oil which is crystallized from petroleum ether to give 13.3 g (82%) of (4S)-1-(t-butyldimethylsilyl)-4-(2,2,2-tri(methylthio)ethyl)azetidin-2-one as colorless prisms. m.p. 61°-62° C. IR(CHCl3, CM-1) 2918, 2850,1730; n.m.r. (CDCl3) δ4.0(m,1), δ3.35(dd,1,J=5.5,16), δ2,83(dd,1,J=3,16) δ2,5(ABq,2) δ2,15(s,9), δ0.98(s,9), δ0.25(s,6).

reactant | n-Butyllithium | 48.5 mmol, 2.5 M, 19.4 ml | C(CCC)[Li]
reactant | tri(methylthio)methane | 48.5 mmol, 7.47 g | CSC(SC)SC | C4H10S3
reactant | (4S)-1-(tert-butyldimethylsilyl)-4-iodomethylazetidin-2-one | 46.15 mmol, 15.0 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1CI)=O | C10H20INOSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (4S)-1-(t-butyldimethylsilyl)-4-(2,2,2-tri(methylthio)ethyl)azetidin-2-one | 13.3 g, 82% | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1CC(SC)(SC)SC)=O | C14H29NOS3Si
